US09108939B2
D: 2-(4-((4-(6-Amino-1H-indazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
1-(Piperidin-4-yl)-1H-indazol-6-amine (3.33 mmol, 0.721 g), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (3.33 mmol, 1.124 g) and potassium carbonate (6.67 mmol, 0.921 g) were combined and stirred overnight at room temperature in acetonitrile (15 mL). The reaction mixture was concentrated at reduced pressure and the resulting residue taken up in dichloromethane. The organic phase was washed with water and dried over sodium sulfate. The solvent was removed and the resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 8% methanol/dichloromethane) to afford the title compound (664 mg). MS (ESI) m/z 473.5 [M+H]+

reactant | 1-(Piperidin-4-yl)-1H-indazol-6-amine | 3.33 mmol, 0.721 g | N1CCC(CC1)N1N=CC2=CC=C(C=C12)N | C12H16N4
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.33 mmol, 1.124 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 6.67 mmol, 0.921 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-(4-((4-(6-Amino-1H-indazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 664 mg | NC1=CC=C2C=NN(C2=C1)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C22H22F6N4O
